* C:\Users\pojeu\Desktop\École\A25\ELE2003\ELE2003_Table15\LesLTspice\2Passe-Bande.asc
* Generated by LTspice 24.1.5 for Windows.
V1 N007 0 AC 1
R_1 N004 N007 15k
C1 N008 N004 330p
C2 0 N004 330p
R_3 N008 0 15k
R_2 N005 N004 15k
X§U1 N008 N009 Vcc Vee N005 TL082
V2 0 Vee 15
V3 Vcc 0 15
R1 N005 N009 2920
R2 0 N009 1k
R_4 N001 Ve2 13.5k
C3 N002 N001 330p
C4 0 N001 330p
R_5 N002 0 13.5k
R_6 Vout N001 13.5k
X§U2 N002 N003 Vcc Vee Vout TL082
R3 Vout N003 2920
R4 0 N003 1k
R5 N010 Ve1 435.6k
R6 0 N010 1k
X§U3 N010 N006 Vcc Vee N006 TL082
X§U4 N005 Ve1 Vcc Vee Ve1 TL082
X§U5 N006 Ve2 Vcc Vee Ve2 TL082
.include "C:\Users\pojeu\Desktop\École\A25\ELE2003\ELE2003_Table15\LesLTspice\TL082.lib\TL082.301"
.ac dec 100 100 100k
.backanno
.end
