* C:\Users\pojeu\OneDrive\Bureau\Devoir\ELE2003_Table15\LesLTspice\Projet\Modulateur\Modulateur.asc
* Generated by LTspice 24.1.10 for Windows.
J1 N001 N006 0 2N3819
V1 0 N004 15
R1 N007 0 1k
R2 N004 N007 9k
V2 N005 0 SINE(0 5 200)
X§U1 N003 N001 Vcc Vee N002 TL082 ;§pnba In+)In-)V+)V-)OUT
V3 N003 0 SINE(0 .2 47.5k)
V4 0 Vee 15
V5 Vcc 0 15
R3 N002 N001 5k
C1 N006 N005 20µ
.model NJF NJF
.model PJF PJF
.lib C:\Users\pojeu\AppData\Local\LTspice\lib\cmp\standard.jft
.include C:\Users\pojeu\OneDrive\Bureau\Devoir\ELE2003_Table15\LesLTspice\TL082.lib\TL082.301
.tran 100ms
.backanno
.end
