* C:\Users\jimtr\OneDrive - polymtl\Projet\ELE2003_Table15\LesLTspice\avant_vrai_Projet\Démodulateur\MonDemodulateur.asc
V1 Vcc 0 15
V2 0 Vee 15
X§U1 porteuse N001 Vcc Vee y TL082
R1 y N001 1.5k
R2 Vee N002 6.5k
R3 N002 0 1k
J1 N001 N002 0 J111
V3 porteuse 0 SINE(0 100m 47.5k)
C1 N002 m 1µ
V4 m 0 SINE(0 2 5k)
X§U2 y N007 Vcc Vee N007 TL082
X§U4 N021 N015 Vcc Vee N020 TL082
D2 P001 N018 D
D3 N018 P002 D
R8 N020 0 10k
R9 N021 0 10k
R12 N015 0 10k
R11 P003 N015 10k
D4 N020 P003 D
R6 N015 P001 10k
R7 N021 P002 10k
X§U5 0 P004 Vcc Vee N046 TL082
D5 N044 N046 D
D6 N046 N045 D
R10 N045 N044 2k
R13 N044 P005 4k
R14 P004 NC_01 1k
V5 P005 0 10
X§U6 N045 N043 Vcc Vee N043 TL082
R15 N023 N025 6.8k
X§U7 0 N023 Vcc Vee N024 TL082
D7 N024 N023 D
R16 N022 N023 6.8k
D8 N022 N024 D
R17 N027 N022 3.4k
X§U8 0 N027 Vcc Vee N026 TL082
R18 N026 N027 6.8k
R19 N027 N025 6.8k
X§U9 0 N028 Vcc Vee N031 TL082
X§U10 N033 N030 Vcc Vee N032 TL082
R20 N028 NC_02 10k
R21 N033 N028 10k
R22 N029 N028 10k
R23 N030 N029 10k
R24 N032 N030 10k
D9 N029 N031 D
D10 N031 N033 D
X§U11 N007 N003 Vcc Vee N005 TL082
D11 N005 N006 D
C4 N006 N005 1p
D12 N003 N005 D
X§U12 N006 N004 Vcc Vee y_redresse TL082
R25 N006 0 10k
R26 N004 N003 10k
R27 y_redresse N004 10k
R4 N038 N037 6.48k
R5 N039 N038 3.48k
C2 0 N042 12n
R29 N034 N042 6.98k
C3 N034 N039 910p
X§U3 0 N039 Vcc Vee N040 TL082
R30 N035 N040 12.7k
R31 N041 N035 26.7k
C6 N041 0 750p
X§U13 N041 N036 Vcc Vee N036 TL082
C7 N036 N035 1n
R28 N008 y_redresse 1.11k
R32 N012 N008 3.96k
C5 N012 0 2.4n
C8 N009 N008 24n
X§U14 N012 N009 Vcc Vee N009 TL082
R33 N011 N009 12.8k
R34 N013 N011 26.4k
C9 N013 0 750p
X§U15 N013 m_non-centre Vcc Vee m_non-centre TL082
C10 m_non-centre N011 1n
X§U16 m_non-centre N010 Vcc Vee V_out TL082
R35 V_out N010 1k
R36 N010 0 2k
V6 N016 0 SINE(0 1 1k) AC 1
X§U17 N016 N019 Vcc Vee N017 TL082
R37 N017 N019 1k
R38 N019 0 2k
.model D D
.lib C:\Users\jimtr\AppData\Local\LTspice\lib\cmp\standard.dio
.model NJF NJF
.model PJF PJF
.lib C:\Users\jimtr\AppData\Local\LTspice\lib\cmp\standard.jft
.include "C:\Users\jimtr\OneDrive - polymtl\Projet\ELE2003_Table15\LesLTspice\TL082.lib\TL082.301"
.tran 3.5m
* modulateur
* redresseur
* Gain
* passe-bas
* Démodulateur qui ne fonctionne pas
* Tests
.backanno
.end
