* C:\Users\jimtr\OneDrive - polymtl\Projet\ELE2003_Table15\LesLTspice\deuxième moitié session\THE LTspice\MonCircuit.asc
V1 Vcc 0 15
V2 0 Vee 15
X§U1 porteuse N002 Vcc Vee y TL082
R1 y N002 1.5k
R2 Vee N003 6.5k
R3 N003 0 1k
J1 N002 N003 0 J111
V3 porteuse 0 SINE(0 100m 47.5k)
C1 N003 m 1µ
V4 m 0 SINE(0 2 5k)
X§U2 y N009 Vcc Vee N009 TL082
X§U4 N023 N017 Vcc Vee N022 TL082
D2 P001 N020 D
D3 N020 P002 D
R8 N022 0 10k
R9 N023 0 10k
R12 N017 0 10k
R11 P003 N017 10k
D4 N022 P003 D
R6 N017 P001 10k
R7 N023 P002 10k
X§U5 0 P004 Vcc Vee N063 TL082
D5 N061 N063 D
D6 N063 N062 D
R10 N062 N061 2k
R13 N061 P005 4k
R14 P004 NC_01 1k
V5 P005 0 10
X§U6 N062 N060 Vcc Vee N060 TL082
R15 N025 N028 6.8k
X§U7 0 N025 Vcc Vee N026 TL082
D7 N026 N025 D
R16 N024 N025 6.8k
D8 N024 N026 D
R17 N030 N024 3.4k
X§U8 0 N030 Vcc Vee N029 TL082
R18 N029 N030 6.8k
R19 N030 N028 6.8k
X§U9 0 N033 Vcc Vee N045 TL082
X§U10 N049 N035 Vcc Vee N046 TL082
R20 N033 NC_02 10k
R21 N049 N033 10k
R22 N034 N033 10k
R23 N035 N034 10k
R24 N046 N035 10k
D9 N034 N045 D
D10 N045 N049 D
X§U11 N009 N005 Vcc Vee N007 TL082
D11 N007 N008 D
C4 N008 N007 1p
D12 N005 N007 D
X§U12 N008 N006 Vcc Vee y_redresse TL082
R25 N008 0 10k
R26 N006 N005 10k
R27 y_redresse N006 10k
R4 N055 N054 6.48k
R5 N056 N055 3.48k
C2 0 N059 12n
R29 N051 N059 6.98k
C3 N051 N056 910p
X§U3 0 N056 Vcc Vee N057 TL082
R30 N052 N057 12.7k
R31 N058 N052 26.7k
C6 N058 0 750p
X§U13 N058 N053 Vcc Vee N053 TL082
C7 N053 N052 1n
R28 N010 y_redresse 1.11k
R32 N014 N010 3.96k
C5 N014 0 2.4n
C8 N011 N010 24n
X§U14 N014 N011 Vcc Vee N011 TL082
R33 N013 N011 12.8k
R34 N015 N013 26.4k
C9 N015 0 750p
X§U15 N015 m_non-centre Vcc Vee m_non-centre TL082
C10 m_non-centre N013 1n
X§U16 m_non-centre N012 Vcc Vee V_out_demodu TL082
R35 V_out_demodu N012 1k
R36 N012 0 2k
V6 N018 0 SINE(0 1 1k) AC 1
X§U17 N018 N021 Vcc Vee N019 TL082
R37 N019 N021 1k
R38 N021 0 2k
V7 N027 0 AC 1
C11 Vin_A 0 0.1µ
R39 Vin_A N027 580k
X§U18 0 N048 Vcc Vee N039 TL082
C12 N039 N038 470p
C13 N048 N038 470p
R40 N039 N048 89.35k
R41 N047 N038 270
R42 N038 0 270
V8 N047 0 AC 1
X§U19 0 N032 Vcc Vee N031 TL082
X§U20 Vin_A N031 Vcc Vee N032 TL082
R43 N031 Vin_A 5.6k
R44 N032 N031 1k
R45 P006 N032 5.6k
C14 0 P006 0.047µ
R46 0 0 1.089k
X§U21 0 N041 Vcc Vee N037 TL082
C15 N037 N036 470p
C16 N041 N036 470p
R47 N037 N041 89.35k
R48 N040 N036 270
R49 N036 0 270
V9 N040 0 AC 1
X§U22 0 N050 Vcc Vee N044 TL082
C17 N044 N043 470p
C18 N050 N043 470p
R50 N044 N050 89.35k
R51 N042 N043 270
R52 N043 0 270
X§U23 NC_03 N042 Vcc Vee N042 TL082
.model D D
.lib C:\Users\jimtr\AppData\Local\LTspice\lib\cmp\standard.dio
.model NJF NJF
.model PJF PJF
.lib C:\Users\jimtr\AppData\Local\LTspice\lib\cmp\standard.jft
.include "C:\Users\jimtr\OneDrive - polymtl\Projet\ELE2003_Table15\LesLTspice\TL082.lib\TL082.301"
* .tran 100u
* modulateur
* redresseur
* Gain
* passe-bas
* Démodulateur qui ne fonctionne pas
* Tests
* Démodulateur
* Filtre pour interupteur
* ?
* Résonateur :
.ac oct 101 10 100k
* Filtre passe-bande
* Antonio, L = 1.6
* Multiple feedback
* (ordre 2 I guess)
* Multiple feedback cascade (ordre 4 I guess)
* Multiple feedback ordre 4
.backanno
.end
