* C:\Users\pojeu\OneDrive\Bureau\Devoir\ELE2003_Table15\LesLTspice\partie 1\isolation_d'impedance\isolation_impédance.asc
* Generated by LTspice 24.1.10 for Windows.
V1 Vin 0 15
R1 N001 Vin 17142
R2 0 N001 15k
V2 0 Vee 15
V3 Vcc 0 15
R3 N001 0 15k
.include "C:\Users\pojeu\OneDrive\Bureau\Devoir\ELE2003_Table15\LesLTspice\TL082.lib\TL082.301"
.tran 5
.backanno
.end
