* C:\Users\pojeu\Desktop\École\A25\ELE2003\ELE2003_Table15\LesLTspice\partie1\inverseur.asc
* Generated by LTspice 24.1.5 for Windows.
V1 V_cc 0 15
V2 0 V_ee 15
R1 N001 V_in 10k
R2 V_out N001 150k
X§U1 0 N001 V_cc V_ee V_out TL082
V3 V_in 0 SINE(0 500m 5k)
.include "C:\Users\pojeu\Desktop\École\A25\ELE2003\ELE2003_Table15\LesLTspice\TL082.lib\TL082.301"
.tran 500u
.backanno
.end
