* C:\Users\pojeu\Desktop\École\A25\ELE2003\ELE2003_Table15\LesLTspice\partie1\Passe_bande_Prelab_III\FilterWizard.asc
* Generated by LTspice 24.1.5 for Windows.
R1 N005 N001 109k
R2 N001 0 1.04k
C1 N002 N001 330p
C2 N006 N001 330p
R3 N002 N006 103k
X§U1 0 N006 Vcc Vee N002 TL082
R6 N003 N002 109k
R8 N003 0 1.04k
C3 N004 N003 360p
C4 N007 N003 360p
R9 N004 N007 103k
X§U2 0 N007 Vcc Vee N004 TL082
V1 N005 0 AC 1
V2 0 Vee 15
V3 Vcc 0 15
.ac dec 100 100 100k
.include "C:\Users\pojeu\Desktop\École\A25\ELE2003\ELE2003_Table15\LesLTspice\TL082.lib\TL082.301"
.backanno
.end
